US04933462
In a preferred embodiment of this invention, equimolar amounts of dimethyl carbonate and diethanolamine are mixed and heated to reflux. The mixture is maintained at reflux until essentially all of the reactants are consumed as measured by gas chromatography. The product mixture consists of methanol and 3-(2-hydroxyethyl)-2-oxazolidinone. The methanol is removed by distillation leaving essentially pure 3-(2-hydroxyethyl)-2-oxazolidinone as confirmed by gas chromatography.

reactant | dimethyl carbonate | C(OC)(OC)=O | C3H6O3
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
product | 3-(2-hydroxyethyl)-2-oxazolidinone | OCCN1C(OCC1)=O | C5H9NO3
